US04935442
2-(5-Hydroxymethyl-2-methyl-2-tetrahydrofuranylmethoxy)-6-morpholinomethyl-4-t-octylphenol
A solution of 3.7 g (10 mmole) of 2-(5-hydroxymethyl-2-methyl-2-tetrahydrofuranylmethoxy)-4-t-octylphenol, 1 ml (12 mmole) of morpholine and 0.35 g (12 mmole) of paraformaldehyde in 25 ml of isopropanol was heated under reflux for 18 hours. The solvent was removed by evaporation in vacuo and the residue was extracted with diethyl ether. The resulting ethereal solution was washed with water, followed by saturated sodium chloride solution, and then dried (MgSO4) and evaporated in vacuo. The residue was purified by chromatography over silica gel, eluting with ethyl acetate, to give 2.31 g of the title compound as an oil.

reactant | 2-(5-hydroxymethyl-2-methyl-2-tetrahydrofuranylmethoxy)-4-t-octylphenol | 10 mmole, 3.7 g | OCC1CCC(O1)(C)COC1=C(C=CC(=C1)C(C)(C)CC(C)(C)C)O | C21H34O4
reactant | morpholine | 12 mmole, 1 ml | N1CCOCC1 | C4H9NO
reactant | paraformaldehyde | 12 mmole, 0.35 g | C=O | CH2O
solvent | isopropanol | 25 ml | C(C)(C)O | C3H8O
product | 2-(5-Hydroxymethyl-2-methyl-2-tetrahydrofuranylmethoxy)-6-morpholinomethyl-4-t-octylphenol | 2.31 g | OCC1CCC(O1)(C)COC1=C(C(=CC(=C1)C(C)(C)CC(C)(C)C)CN1CCOCC1)O | C26H43NO5
